US07291744B2
Synthesis of benzyl(1R,2S,4R)-2-(((3-(4-fluorophenyl)propyl)(propyl)amino)methyl)-4-pivalamidocyclohexylcarbamate
A solution of benzyl(1R,2S,4R)-4-amino-2-(((3-(4-fluorophenyl)propyl)(propyl)-amino)methyl)-cyclohexylcarbamate (1.1 g, 2.4 mmol) and Et3N (0.3 g, 3 mmol) in CH2Cl2 (50 ml) was cooled in an ice bath and treated drop-wise with pivaloyl chloride (0.32 g, 2.6 mmol). The solution is stirred for 30 minutes and then washed successively with saturated sodium bicarbonate, 0.5 N NaOH, and brine. The solution was dried over sodium sulfate, filtered and the solvent removed on a rotary evaporator. This chromatographed on silica gel to (0.3:2.7:97 NH4OH/MeOH/CH2Cl2) to give 0.85 g of white solid. MS: (M+H)+=540.38.

reactant | benzyl(1R,2S,4R)-4-amino-2-(((3-(4-fluorophenyl)propyl)(propyl)-amino)methyl)-cyclohexylcarbamate | 2.4 mmol, 1.1 g | N[C@H]1C[C@H]([C@@H](CC1)NC(OCC1=CC=CC=C1)=O)CN(CCC)CCCC1=CC=C(C=C1)F | C27H38FN3O2
reactant | Et3N | 3 mmol, 0.3 g | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.6 mmol, 0.32 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | benzyl(1R,2S,4R)-2-(((3-(4-fluorophenyl)propyl)(propyl)amino)methyl)-4-pivalamidocyclohexylcarbamate | 0.85 g | FC1=CC=C(C=C1)CCCN(CCC)C[C@H]1[C@@H](CC[C@H](C1)NC(C(C)(C)C)=O)NC(OCC1=CC=CC=C1)=O | C32H46FN3O3
